US04642379
4-([(Dimethylamino)acetyl]amino)-N-(2,6-dimethylphenyl)benzamide
A mixture of 3.0 g of 4-[(chloroacetyl)amino]-N-(2,6-dimethylphenyl)benzamide and 22 ml of 40% aqueous dimethylamine in tetrahydrofuran was stirred at room temperature overnight. After the reaction was evaporated to dryness, the residue was taken up in chloroform, washed with 10% aqueous sodium carbonate, water, and a saturated sodium chloride solution, dried over sodium sulfate, and evaporated to dryness. Crystallization from methanol/water provided 2.8 g of the desired title product, m.p. 276°-278° C.

reactant | 4-[(chloroacetyl)amino]-N-(2,6-dimethylphenyl)benzamide | 3.0 g | ClCC(=O)NC1=CC=C(C(=O)NC2=C(C=CC=C2C)C)C=C1 | C17H17ClN2O2
reactant | dimethylamine | 22 ml | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-([(Dimethylamino)acetyl]amino)-N-(2,6-dimethylphenyl)benzamide | 2.8 g | CN(C)CC(=O)NC1=CC=C(C(=O)NC2=C(C=CC=C2C)C)C=C1 | C19H23N3O2
